US08557872B2
Step 1: Synthesis of 3-(2-sec-butoxy-4-fluoro-phenyl)-acrylic acid methyl ester
3-(4-Fluoro-2-hydroxy-phenyl)-acrylic acid methyl ester (120 mg) was reacted with K2CO3 (165 mg) and 2-iodobutan (0.12 ml) at 100° C. for 3 hrs as described above to yield title compound (105 mg)

reactant | 3-(4-Fluoro-2-hydroxy-phenyl)-acrylic acid methyl ester | 120 mg | COC(C=CC1=C(C=C(C=C1)F)O)=O | C10H9FO3
reactant | K2CO3 | 165 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodobutan | 0.12 ml | IC(C)CC | C4H9I
product | 3-(2-sec-butoxy-4-fluoro-phenyl)-acrylic acid methyl ester | 105 mg | COC(C=CC1=C(C=C(C=C1)F)OC(C)CC)=O | C14H17FO3
